US05486609
Amer. Chem. Soc., 74 (1952), 3027-29, discloses that the treatment of o-bromophenol with twice the molar amount of lithium diethylamide in boiling diethyl ether gives rise to m-diethyl-aminophenol. However, the process described there is completely unsuitable for an industrial synthesis, since m-diethylaminophenol is formed only in a yield of 15%.

reactant | o-bromophenol | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | lithium diethylamide | C(C)[N-]CC.[Li+]
reactant | diethyl ether | C(C)OCC | C4H10O
product | m-diethyl-aminophenol | yield of 15% | C(C)C1(C(C(=CC=C1)CC)N)O | C10H17NO
